US05364767
In a 500 ml 3-neck flask with nitrogen purge, drying tube and stirrer is added 250 ml of dry pyridine. To this is added 10 g (0.0477 mole) of 1-acetyl-6-chloro-indol-3-ol. The flask is cooled to less than about 10° C. in a methanol/dry ice bath in a darkened hood. To the suspension is added 5.5 ml of phosphorous oxychloride. The temperature is allowed to come up to 0° C. and maintained for 4 hours. The reaction mixture turns a light red color. The reaction mixture is allowed to stir overnight. The solution is rotovaped to dryness (less than about 50° C.) using a cold trap and vacuum pump. The resulting residue is taken up in 100 ml of ice cold water and adjusted to pH of 9.0 with 10% KOH. The dark solution is rotovaped to dryness and traces of water removed by 3 evaporations of 100 ml portions of ethanol. The resulting solid residue is dissolved in 100 ml of dry methanol. To this dark solution is added a 20 ml portion of dry methanol containing 1.6 g of potassium metal. This mixture is stirred overnight on a stirring plate. The mixture is neutralized with a small portion of acetic acid to a pH between 5.5 and 6.0. This solution is rotovaped to dryness. The residue is dissolved in 100 ml of water and charcoal filtered. A solution of 6.9 g of p-toluidine hydrochloride is prepared in 100 ml of water. The p-toluidine solution is stirred into the reaction solution. The resulting precipitate is collected by vacuum filtration, washed with ethanol and vacuum dried.

reactant | 1-acetyl-6-chloro-indol-3-ol | 0.0477 mole, 10 g | C(C)(=O)N1C=C(C2=CC=C(C=C12)Cl)O | C10H8ClNO2
reactant | phosphorous oxychloride | 5.5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | KOH | [OH-].[K+]
reactant | p-toluidine | NC1=CC=C(C=C1)C | C7H9N
solvent | water | O | H2O
product | p-toluidine hydrochloride | 6.9 g | Cl.NC1=CC=C(C=C1)C | InChI=1S/C7H9N.ClH/c1-6-2-4-7(8)5-3-6;/h2-5H,8H2,1H3;1H
